US06649643B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-N-isopropyl-2-naphthamide
A mixture of 6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-N-isopropyl-2-naphthamide (16.6 g) and pyridinium chloride (6.46 g) in methanol (84 mL) was heated at 60° C. for 3 h. The solvent was evaporated and the residue was dissolved in chloroform, which was washed with saturated sodium bicarbonate solution, dried and concentrated. The residue was purified by column chromatography (eluent; CHCl3: 8% methanolic ammonia=19:1→9:1) to give the titled compound (8.3 g) as a colorless powder.

reactant | 6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-N-isopropyl-2-naphthamide | 16.6 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC(C)C | C40H39N3O2
reactant | pyridinium chloride | 6.46 g | [Cl-].[NH+]1=CC=CC=C1
solvent | methanol | 84 mL | CO | CH4O
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-N-isopropyl-2-naphthamide | 8.3 g | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC(C)C | C21H25N3O2
